US06506901B2
Step B: 4-Aminomethyl-1-tridecyl-piperidine
Prepared from 1-tridecylpiperidine-4-carboxamide (4.7 g, 15.1 mmol) and LAH (1.14 g, 30.0 mmol) according to general procedure used for Example 8 (Step B) to give 3.6 g of title compound as a pale yellow solid.

reactant | 1-tridecylpiperidine-4-carboxamide | 15.1 mmol, 4.7 g | C(CCCCCCCCCCCC)N1CCC(CC1)C(=O)N | C19H38N2O
reactant | LAH | 30.0 mmol, 1.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-tridecyl-piperidine | 3.6 g | NCC1CCN(CC1)CCCCCCCCCCCCC | C19H40N2
